US04462992
Synthesis of 1-(β-D-Arabinofuranosyl)-2-nitroimidazole
1-(2',3',5'-tri-O-benzoyl-β-D-arabinofuranosyl)-2-nitroimidazole (150 mg, 0.27 mmol) was added to 2.5 ml of 0.025 M methanolic sodium methoxide. The mixture was stirred at 0° C. for three hours and then purified by preparative TLC using chloroform:methanol (6:1) to give 36 mg (54.6%) of the title product as white needles, mp 172° C.

reactant | 1-(2',3',5'-tri-O-benzoyl-β-D-arabinofuranosyl)-2-nitroimidazole | 0.27 mmol, 150 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=NC=C1)[N+](=O)[O-] | C29H23N3O9
reactant | sodium methoxide | 0.025 M, 2.5 ml | C[O-].[Na+]
product | 1-(β-D-Arabinofuranosyl)-2-nitroimidazole | 36 mg, 54.6% | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=NC=C1)[N+](=O)[O-] | C8H11N3O6
